US05985909
A solution of N-[1,3-bis(t-butyldimethylsilyloxy)-2-propyl]-2-(methoxycarbonyl)indole-6-carboxamide (744 mg, 1.43 mmol) and tetrabutylammonium fluoride (2.9 mL of a 1M solution in THF, 2.9 mmol) in THF (20 mL) was stirred at 20° C. for 80 min and evaporated. The residue was crystallised from MeOH (10 mL) giving N-(1,3-dihydroxy-2-propyl)-2-(methoxycarbonyl)indole-6-carboxamide as a white solid (305 mg, 73%), mp 205-207° C. Dry column chromatography of the mother liquor (eluting with 20:1 EtOAc:MeOH) gave a second crop (57 mg, 14%). 1H NMR [(CD3)2SO] δ12.22 (s, 1H, indole NH), 7.97 (s, 1H, H-3 or H-7), 7.94 (d, J=8.0 Hz, 1H, amide NH), 7.70 (d, J=8.5 Hz, 1H, H-4), 7.59 (dd, J=8.5, 1.3 Hz, 1H, H-5), 7.20 (d, J=1.6 Hz, 1H, H-3 or H-7), 4.66 (t, J=5.7 Hz, 2H, OH), 4.03-3.95 (m, 1H, CONHCH), 3.90 (s, 3H, CO2Me), 3.54 (t, J=5.8 Hz, 4H, CH2OH). Anal. (C14H16N2O5) C,H,N.

reactant | N-[1,3-bis(t-butyldimethylsilyloxy)-2-propyl]-2-(methoxycarbonyl)indole-6-carboxamide | 1.43 mmol, 744 mg | [Si](C)(C)(C(C)(C)C)OCC(CO[Si](C)(C)C(C)(C)C)NC(=O)C1=CC=C2C=C(NC2=C1)C(=O)OC | C26H44N2O5Si2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | N-(1,3-dihydroxy-2-propyl)-2-(methoxycarbonyl)indole-6-carboxamide | 305 mg, 73% | OCC(CO)NC(=O)C1=CC=C2C=C(NC2=C1)C(=O)OC | C14H16N2O5
